US03998834
To a stirred and cooled (ice-salt bath) mixture of 12.1 parts of 4-anilinoisonipecotic acid, sodium salt, 200 parts of sodium hydroxide solution 1N and 20 parts of tetrahydrofuran are added dropwise 6.45 parts of ethyl chloroformate in 25 parts of tetrahydrofuran over 15 minutes and at a temperature between 2° and 5° C. Upon completion, stirring is continued for 3 hours in the cool-bath. The whole is extracted with ether. The aqueous phase is separated and degassed on a rotavapor without heating. The mixture is acidified with glacial acetic acid, whereupon an oil is separated. The latter is stirred in fresh water and extracted with chloroform. The extract is washed three times with water, dried, filtered and evaporated. The residue is crystallized from a mixture of ethyl acetate and petroleumether, yielding 4-anilino-1-(ethoxycarbonyl)isonipecotic acid; mp. 149°-156° C.

reactant | 4-anilinoisonipecotic acid | N(C1=CC=CC=C1)C1(CCNCC1)C(=O)O | C12H16N2O2
reactant | sodium | [Na] | Na
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-anilino-1-(ethoxycarbonyl)isonipecotic acid | N(C1=CC=CC=C1)C1(CCN(CC1)C(=O)OCC)C(=O)O | C15H20N2O4
